US08133998B2
To a suspension of 6-(4-(3-chlorophenyl)piperazine-1-carbonyl)-5-methylthieno[2,3-d]pyrimidin-4(3H)-one, (0.1 g, 0.26 mmol) in CH3CN (5 mL) was added K2CO3 (36 mg, 0.26 mmol), KI (43 mg, 0.26 mmol), and 2-chloro-N-ethyl-N-(2,2,2-trifluoroethyl)acetamide, (52 mg, 0.26 mmol). The reaction mixture was refluxed overnight and then quenched with H2O (20 mL). The resultant precipitate was filtered and dried to provide a crude solid which was purified by flash chromatography (Et2O:DCM, 1:1) providing 30 mg of pure 2-(6-(4-(3-chlorophenyl)piperazine-1-carbonyl)-5-methyl-4-oxothieno[2,3-d]pyrimidin-3 (4H)-yl)-N-ethyl-N-(2,2,2-trifluoroethyl)acetamide, (yield: 21%).

reactant | 6-(4-(3-chlorophenyl)piperazine-1-carbonyl)-5-methylthieno[2,3-d]pyrimidin-4(3H)-one | 0.26 mmol, 0.1 g | ClC=1C=C(C=CC1)N1CCN(CC1)C(=O)C1=C(C2=C(N=CNC2=O)S1)C | C18H17ClN4O2S
reactant | K2CO3 | 0.26 mmol, 36 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-N-ethyl-N-(2,2,2-trifluoroethyl)acetamide | 0.26 mmol, 52 mg | ClCC(=O)N(CC(F)(F)F)CC | C6H9ClF3NO
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 2-(6-(4-(3-chlorophenyl)piperazine-1-carbonyl)-5-methyl-4-oxothieno[2,3-d]pyrimidin-3 (4H)-yl)-N-ethyl-N-(2,2,2-trifluoroethyl)acetamide | 30 mg, yield: 21% | ClC=1C=C(C=CC1)N1CCN(CC1)C(=O)C1=C(C2=C(N=CN(C2=O)CC(=O)N(CC(F)(F)F)CC)S1)C | C24H25ClF3N5O3S
